US09315475B2
Step 6. (4R)-3-[(3S)-3-(3,5-Difluorophenyl)-3-(4-fluorophenyl)propanoyl]-4-phenyl-1,3-oxazolidin-2-one
A solution of 4-fluorophenylmagnesium bromide (29 mL of a 2.0 M solution in THF, 58 mmol) and copper(I) bromide-dimethylsulfide complex (12 g, 59 mmol) in THF (100 mL) under an atmosphere of nitrogen was cooled to −40° C. in a dry ice-acetonitrile bath. To the stirred solution was added a solution of (4R)-3-[(2E)-3-(3,5-difluorophenyl)prop-2-enoyl]-4-phenyl-1,3-oxazolidin-2-one (7.7 g, 23 mmol) in 100 mL of THF dropwise over 15 min. The resulting mixture was stirred at −40° C. for 1.5 h, then the cooling bath was removed and the stirred mixture was allowed to warm to ambient temperature. The reaction was quenched by the addition of aqueous NH4Cl solution. The resulting mixture was stirred for 15 min then extracted with two portions of EtOAc. The combined organic phases were washed with water and brine, then dried (MgSO4), filtered, and the solvents were removed in vacuo. The residue was chromatographed on a 330 g SiO2 column using a gradient elution of 0-50% EtOAc:A, where A=1:1 hexanes:CHCl3. Fractions containing product were combined and the solvents were removed in vacuo to give a solid.

reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | (4R)-3-[(2E)-3-(3,5-difluorophenyl)prop-2-enoyl]-4-phenyl-1,3-oxazolidin-2-one | 23 mmol, 7.7 g | FC=1C=C(C=C(C1)F)/C=C/C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C18H13F2NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4R)-3-[(3S)-3-(3,5-Difluorophenyl)-3-(4-fluorophenyl)propanoyl]-4-phenyl-1,3-oxazolidin-2-one | FC=1C=C(C=C(C1)F)[C@@H](CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C24H18F3NO3
